US04235871
EXAMPLE 4 Encapsulation of Sulfoxone
Similarly, repeating the above procedure but replacing the sulfoxone sodium and sodium ascorbate with 50 mg/ml streptomycin sulfate, synthetic lipid vesicles are obtained encapsulating such material, for use as an antibacterial preparation for applications to plants.

reactant | sulfoxone sodium | C1=CC(=CC=C1NCS(=O)[O-])S(=O)(=O)C=2C=CC(=CC2)NCS(=O)[O-].[Na+].[Na+]
reactant | sodium ascorbate | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | streptomycin sulfate | C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)N=C(N)N)O)N=C(N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O.OS(=O)(=O)O
product | Sulfoxone | C1=CC(=CC=C1NCS(=O)O)S(=O)(=O)C=2C=CC(=CC2)NCS(=O)O | C14H16N2O6S3
